US06747023B1
In methylene chloride (25 ml) were dissolved 4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine (209 mg) and benzoyl peroxide (70%, 138 mg) at room temperature, followed by heating under reflux for 9 hours. By the purification by chromatography on a silica gel column (4% methanol—methylene chloride), a crudely purified product of 1-[(6-benzoyloxy-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)piperazine (190 mg) was obtained as a colorless glassy solid. The resulting solid was dissolved in a mixed solvent of tetrahydrofuran (20 ml) and methanol (20 ml), followed by the addition of a 1N aqueous solution (2.00 ml) of sodium hydroxide. The resulting mixture was stirred at room temperature for 10 minutes. The solvent was distilled off and the residue was separated into layers by the addition of chloroform and water. The organic layer was dried over anhydrous sodium sulfate and the filtrate was concentrated. The residue was purified by preparative thin-layer chromatography (4% methanol—methylene chloride) using silica gel, whereby the title compound (19 mg) was obtained as colorless powder.

reactant | 4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)-1-[(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine | 209 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNCCC2N1)C(NC)=O | C21H23ClN6O4S2
reactant | benzoyl peroxide | 138 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-[(6-benzoyloxy-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-(N-methylcarbamoyl)piperazine | 190 mg | C(C1=CC=CC=C1)(=O)OC1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)C(NC)=O | C28H27ClN6O6S2
